US08877782B2
[6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone
As described for example 272, 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (97.6 mg, 0.3 mmol) was converted, using morpholine instead of 4-aminotetrahydropyran, to the title compound (90 mg, 79%) which was obtained as a white solid. MS: m/e=381.3 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.3 mmol, 97.6 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-morpholin-4-yl-methanone | 90 mg, 79% | CC1=C(C(=NO1)C1=NC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCOCC1 | C20H20N4O4
